US07592334B2
(b) 3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid
A solution of methyl 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate (788 mg) in dioxane (120 ml)/water (30 mL) was treated dropwise over 2 h with 0.5M NaOH solution (8 mL) and stirred overnight. After evaporation to approx. 3 ml, water (5 mL) was added and 2M HCl to pH4. The precipitated solid was filtered off, washed with a small volume of water and dried under vacuum to give a solid (636 mg); LC/MS (APCI−) m/z 209 ([M−H]−, 5%), 165([M-COOH]−, 100%).

reactant | methyl 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylate | 788 mg | O=C1NC2=C(SC1)C=CC(=N2)C(=O)OC | C9H8N2O3S
reactant | water | 30 mL | O | H2O
reactant | NaOH | 0.5M, 8 mL | [OH-].[Na+]
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | 3-Oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid | 636 mg | O=C1NC2=C(SC1)C=CC(=N2)C(=O)O | C8H6N2O3S
